US08026236B2
B: 3-Amino-6-chloro-4-methylamino-pyridine-2-carbonitrile
Tin(II) chloride dihydrate (21 g) was added to a suspension of 6-chloro-4-methylamino-3-nitro-pyridine-2-carbonitrile (6.6 g) in ethanol (150 ml). The mixture was stirred at room temperature for 3 hours. To above red-brown coloured solution was then added ethyl acetate (1000 ml) and followed by 10% aqueous ammonium hydroxide (200 ml). The organic layer were seperated, the sticky solid pad was washed with ethyl acetate (5×200 ml). Combined organic layer was then washed with saturated sodium chloride aqueous solution (2×200 ml), dried over sodium sulphate, solvent removed to give a brown solid as expected product (5.7 g).

reactant | Tin(II) chloride dihydrate | 21 g | O.O.[Sn](Cl)Cl
reactant | 6-chloro-4-methylamino-3-nitro-pyridine-2-carbonitrile | 6.6 g | ClC1=CC(=C(C(=N1)C#N)[N+](=O)[O-])NC | C7H5ClN4O2
reactant | ethyl acetate | 1000 ml | C(C)(=O)OCC | C4H8O2
reactant | ammonium hydroxide | 200 ml | [OH-].[NH4+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-Amino-6-chloro-4-methylamino-pyridine-2-carbonitrile | 5.7 g | NC=1C(=NC(=CC1NC)Cl)C#N | C7H7ClN4
